US07071175B1
To a solution of NaH (290.5 mg, 60% in mineral oil, 7.5 mmol) in THF (25 mL) at 0° C. was added a solution of 3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-(diethoxy-phosphoryl)-propionic acid ethyl ester (2.5 g, 5.81 mmol) in THF (30 mL). The reaction mixture was allowed to stir at 0° C. for 1 h. To the reaction was added propionaldehyde (725 mg, 12.5 mmol) dropwise at 0° C. The reaction mixture was allowed to stir at room temperature for 16 h. Propionaldehyde (2.5 g) was added and the mixture was stirred at room temperature for an additional 16 h. The reaction was quenched with the slow addition of saturated aqueous NH4Cl (30 mL). The mixture was extracted with EtOAc, washed with brine and dried. The crude product was purified by column chromatography (EtOAc/hexane, 1:8) to give 2-(6tert-butoxycarbonylamino-pyridin-3-ylmethyl)-pent-2-enoic acid ethyl ester as a mixture of isomers (1.2 g, 60%).

reactant | NaH | 7.5 mmol, 290.5 mg | [H-].[Na+]
reactant | 3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-(diethoxy-phosphoryl)-propionic acid ethyl ester | 5.81 mmol, 2.5 g | C(C)OC(C(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)P(=O)(OCC)OCC)=O | C19H31N2O7P
reactant | propionaldehyde | 12.5 mmol, 725 mg | C(CC)=O | C3H6O
reactant | Propionaldehyde | 2.5 g | C(CC)=O | C3H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(6tert-butoxycarbonylamino-pyridin-3-ylmethyl)-pent-2-enoic acid ethyl ester | C(C)OC(C(=CCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C18H26N2O4
